US05053514
To a solution of N-benzoyl-N-methyl-N-(4-methylthiobenzyl)amine (6.8 g) in dichloromethane (120 ml) is added gradually m-chloroperoxybenzoic acid (5.5 g) with stirring at a temperature below 5° C. and the mixture is stirred at the same temperature for 15 minutes. After the reaction, the reaction mixture is washed successively with 5% aqueous potassium carbonate solution and aqueous sodium chloride solution, and subsequently dried over magnesium sulfate. After dichloromethane is distilled off from the mixture, the residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=100:0-100:5) to give N-benzoyl-N-methyl-N-(4-methylsulfinylbenzyl)amine (4.1 g).

reactant | N-benzoyl-N-methyl-N-(4-methylthiobenzyl)amine | 6.8 g | C(C1=CC=CC=C1)(=O)N(CC1=CC=C(C=C1)SC)C | C16H17NOS
reactant | m-chloroperoxybenzoic acid | 5.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | N-benzoyl-N-methyl-N-(4-methylsulfinylbenzyl)amine | 4.1 g | C(C1=CC=CC=C1)(=O)N(CC1=CC=C(C=C1)S(=O)C)C | C16H17NO2S
